US07691877B2
[2-Amino-6-(2-methoxy-ethylamino)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester
The title compound was prepared following the example in preparation 102 using 2-methoxyethylamine (1.0 ml) and (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester (150 mg), giving the product (121 mg) as a yellow gum.

reactant | 2-methoxyethylamine | 1.0 ml | COCCN | C3H9NO
reactant | (2-amino-6-bromo-3-nitro-pyridin-4-yl)-benzyl-carbamic acid ethyl ester | 150 mg | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)Br)N)[N+](=O)[O-])=O | C15H15BrN4O4
product | [2-Amino-6-(2-methoxy-ethylamino)-3-nitro-pyridin-4-yl]-benzyl-carbamic acid ethyl ester | C(C)OC(N(CC1=CC=CC=C1)C1=C(C(=NC(=C1)NCCOC)N)[N+](=O)[O-])=O | C18H23N5O5
